### PR TITLE
feat: `constructor` warns when multiple constructors match

### LINKED ISSUE #3129: RFC: make constructor tactic fail in ambiguous cases
### Proposal

Currently, if multiple constructors of an inductive type are applicable to a goal, the `constructor` tactic will apply the first one which works.   The proposal is to instead make the `constructor` tactic fail unless there is exactly one constructor which works.  A draft implementation is at #3127.

**User Experience**: The proposed behaviour makes the tactic slightly less powerful, but more predictable.

The behaviour being disabled is currently used rarely: twice in Std ([diff](https://github.com/hrmacbeth/std4/commit/9acd94fb1e9e5574a35747f3df678198a06648e3)) and twelve times in Mathlib ([diff](https://github.com/leanprover-community/mathlib4/commit/6d886588b4398def33c976fbea23a51b66256f02)), out of thousands of uses of the `constructor` tactic.  It would be useful to hear if there are other projects (perhaps with a different flavour to the proofs) which use the feature more.

**Beneficiaries**: I would expect novice/unsophisticated users to be the biggest beneficiaries, and perhaps this is desirable since a current theme of the FRO's work is "eliminating papercuts."  A particular example: I frequently see students confused that `constructor` is a valid tactic to use for `Or`:
```lean
example : P ∨ Q := by
  constructor -- uses `Or.inl`, not `Or.inr`
```
(... or reach unprovable goals by simply failing to note the ambiguity).

I'm guessing @robertylewis' students make the same mistake: one of his course repos includes a [`constructor` alias](https://github.com/brown-cs22/CS22-Lean-2023/blob/cf275edba583a6a153ebc9b754da4c402942d018/BrownCs22/Library/Tactics.lean#L14) which filters the type of the goal.

The change may also help non-novice users avoid mistakes when they are working with an unfamiliar part of the library.

**Maintainability**: I imagine this change will not make code maintenance harder, and may possibly make it easier.

### Community Feedback

Zulip discussion is [here](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/gotcha.20in.20constructor.20tactic/near/410657715); those that commented seemed open to the change.

@adomani commented that he has encountered this point of confusion in the case of `Decidable`:
```lean
example : Decidable True := by
  constructor -- uses `Decidable.isFalse`, not `Decidable.isTrue`
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by TwoFX**
This PR makes the `constructor` tactic emit a warning if multiple constructors match, and adds a `constructor!` tactic that has the previous behavior of silently applying the first matching constructor.

`constructor!` is actually a shortcut for `constructor +first` or `constructor (first := true)`.

The warning looks like this:
```
Tactic `constructor` applied constructor `Or.inl`, but `Or.inr` also matches the goal.

Hint: Use `constructor!` to apply the first matching constructor without this warning:
  [apply] constructor!
```

Closes #3129.

### CODE REVIEW

File: src/Init/Data/List/Perm.lean [hunk 1]
```diff
@@ -468,7 +468,7 @@ theorem perm_insert_swap (x y : α) (l : List α) :
   by_cases xl : x ∈ l <;> by_cases yl : y ∈ l <;> simp [xl, yl]
   if xy : x = y then simp [xy] else
   simp [List.insert, xl, yl, xy, Ne.symm xy]
-  constructor
+  constructor!
```
Comment (eric-wieser) [inline src/Init/Data/List/Perm.lean:471]: Do we want to allow the `!`-free version in cases where the goal is a `Prop` and is closed?

File: tests/elab/constructor_ambiguous.lean [hunk 2]
```diff
@@ -0,0 +1,122 @@
...
+
+-- `-first` explicitly requests the default behavior.
+/--
+warning: Tactic `constructor` applied constructor `Foo.a`, but `Foo.b` also matches the goal.
+
+Hint: Use `constructor!` to apply the first matching constructor without this warning:
+  [apply] constructor!
+-/
+#guard_msgs in
+example : Foo 0 := by constructor -first
```
Comment (eric-wieser) [inline tests/elab/constructor_ambiguous.lean:76]: What are the semantics of `constructor! -first`?

File: src/Init/Data/List/Perm.lean (hunk 1 above)
Comment (TwoFX) [reply src/Init/Data/List/Perm.lean:471]: I don't think it's worth the extra complexity.

File: tests/elab/constructor_ambiguous.lean (hunk 2 above)
Comment (TwoFX) [reply tests/elab/constructor_ambiguous.lean:76]: The same as `constructor +first -first`, so it's governed by how the general option parser handles this situation.
